US05919780
(8-Bromo-5H-dibenzo[b,e][1,4]diazepin-11-yl)-pyridin-3-ylmethyl-amine
A solution of 0.4 g (1.3 mmol) of 8-bromo-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione (Sahni, S., et al., J. Indian Chem. Soc., 56:625 (1979)) in 10 mL of 2-ethoxyethanol was treated with 0.28 mL (2.1 mmol) of 3-(aminomethyl)-pyridine and heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Trituration with CH2Cl2 /hexane, then with Et2O/hexane left 0.3 g (61% yield) of the product as a yellow solid, mp 152-155° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =379.

reactant | 8-bromo-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 1.3 mmol, 0.4 g | BrC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C1 | C13H9BrN2S
reactant | 3-(aminomethyl)-pyridine | 2.1 mmol, 0.28 mL | NCC=1C=NC=CC1 | C6H8N2
reactant | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
reactant | Et2O hexane | CCOCC.CCCCCC
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (8-Bromo-5H-dibenzo[b,e][1,4]diazepin-11-yl)-pyridin-3-ylmethyl-amine | 0.3 g, 61% yield | BrC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)NCC=3C=NC=CC3)C1 | C19H15BrN4
